US06620841B1
To a suspension of sodium hydride (60% in mineral oil, 960 mg, 24 mmol) in DMF (20 ml) was added dropwise at an ice bath temperature a solution of diethyl(methoxycarbonylmethyl)phosphonate (5.04 g, 24 mmol) in DMF (1 ml). The mixture was stirred for 15 minutes at room temperature and cooled again. To the mixture was added dropwise a solution of 1-benzyl-2-formylpyrrole (3.7 g, 20 mmol) in DMF (2 ml). The reaction mixture was stirred for 4 hours at room temperature and poured into ice-water and extracted with ethylacetate. The extract was washed with water and dried. The solvent was evaporated. The obtained white crystal was washed with isopropylether to give 1-benzyl-2-(2-methoxycarbonylvinyl)pyrrole (3.14 g). Yield: 65%.

reactant | sodium hydride | 24 mmol, 960 mg | [H-].[Na+]
reactant | diethyl(methoxycarbonylmethyl)phosphonate | 24 mmol, 5.04 g | C(C)OP(OCC)(=O)CC(=O)OC | C7H15O5P
reactant | 1-benzyl-2-formylpyrrole | 20 mmol, 3.7 g | C(C1=CC=CC=C1)N1C(=CC=C1)C=O | C12H11NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-2-(2-methoxycarbonylvinyl)pyrrole | 3.14 g, Yield: 65% | C(C1=CC=CC=C1)N1C(=CC=C1)C=CC(=O)OC | C15H15NO2
